US04367238
Powdered sodium cyanide (2.5 g) was added to a solution of 2-fluorophenyl 2-methoxy-3-bromomethylphenyl ether (17.6 g) in dimethyl sulfoxide (50 ml) with stirring at room temperature, and the reaction mixture was treated in a similar manner to that of Example 5-(4) to give oily 2-[2-methoxy-3-(2-fluorophenoxy)phenyl]acetonitrile (10.4 g).

reactant | sodium cyanide | 2.5 g | [C-]#N.[Na+]
reactant | 2-fluorophenyl 2-methoxy-3-bromomethylphenyl ether | 17.6 g | COC1=C(C=CC=C1CBr)OC1=C(C=CC=C1)F | C14H12BrFO2
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 2-[2-methoxy-3-(2-fluorophenoxy)phenyl]acetonitrile | 10.4 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)F)CC#N | C15H12FNO2
